US06379667B1
1.5 ml glutamine
Solutions having three different concentrations of collagenase inhibitor (400, 40 and 4 μg/ml), a buffer solution (control 1) and a normal growth medium solution (control 2) were prepared as described below. The collagenase inhibitor used was GM6001 (Galardin (trade name)). 50 μl of glacial acetic acid was added to 11 mg of collagenase inhibitor and the inhibitor was allowed to dissolve. The pH of a 24.875 ml aliquot of serum-free HEPES (N-[2-hydroxyethylpiperazine-N′-[2-ethane sulfonic acid]) buffered DMEM (Dulbecco's Modified Eagle's Medium) was adjusted to pH 8 using sterile 1M sodium hydroxide solution and the aliquot was then added to the inhibitor solution. The resulting solution had an inhibitor concentration of 400 μg/ml.

reactant | GM6001 | CC(C)C[C@H](CC(=O)NO)C(=O)N[C@@H](CC1=CNC2=CC=CC=C21)C(=O)NC | C20H28N4O4
reactant | HEPES | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | acetic acid | 50 μl | C(C)(=O)O | C2H4O2
product | glutamine | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
